US05891909
c) 3-[3-(2,5-Dimethylphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde
Sulfur trioxide pyridine complex (800 mg, 5.0 mmol) was added to a solution of 3-[3-(2,5-dimethylphenylsulfonyloxy)-5-methylphenoxy]propanol (600 mg, 1.7 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.7 mL, 5.5 mmol) and anhydrous dimethyl sulfoxide (0.4 mL, 5.6 mmol) in anhydrous dichloromethane (20 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (60 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (530 mg, 89%). 1H-NMR (300 MHz, CDCl3) δ 9.82 (s, 1H), 7.68 (s, 1H), 7.33 (d, J=7.8 Hz, 1H), 7.29 (s, 1H), 6.60 (s, 1H), 6.45 (s, 1H), 6.35 (s, 1H), 4.17 (t, J=6.1 Hz, 2H), 2.85 (t, J=6.1 Hz, 2H), 2.70 (s, 3H), 2.33 (s, 3H), 2.24 (s, 3H).

reactant | 3-[3-(2,5-dimethylphenylsulfonyloxy)-5-methylphenoxy]propanol | 1.7 mmol, 600 mg | CC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C18H22O5S
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 5.6 mmol, 0.4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[3-(2,5-Dimethylphenylsulfonyloxy)-5-methylphenoxy]propionaldehyde | 530 mg, 89% | CC1=C(C=C(C=C1)C)S(=O)(=O)OC=1C=C(OCCC=O)C=C(C1)C | C18H20O5S
